US07169789B2
N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-phenyl}-N′-(4-fluorophenyl)urea
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline (50 mg) was dissolved in chloroform (3 ml), and p-fluorophenyl isocyanate (23 μl) was then added to the solution. The mixture was heated under reflux overnight. Methanol was added to the reaction solution, and the mixture was purified by HPLC by development with chloroform/methanol to give 26 mg (yield 36%) of the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline | 50 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C16H15N3O3
reactant | p-fluorophenyl isocyanate | 23 μl | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | Methanol | CO | CH4O
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-phenyl}-N′-(4-fluorophenyl)urea | 26 mg, yield 36% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)F | C23H19FN4O4
